US07989480B2
{(S)-2-[4-(4-chloro-phenoxy)-phenyl]-1-formyl-ethyl}-carbamic acid tert-butyl ester
To a solution of (S)-2-tert-Butoxycarbonylamino-3-[4-(4-chloro-phenoxy)-phenyl]-propionic acid methyl ester (107 mg, 0.26 mmol, 1 eq.) in toluene (5 ml) was added dropwise diisobutylaluminium hydride (1 M in hexane, 0.6 ml, 2.3 eq.) by a syringe with stirring under Ar at −78° C. After the addition was complete, the mixture was stirred at the same temperature for 2 hr and then AcOH (0.2 ml) was added. The mixture was allowed to warm to room temperature overnight. The mixture was partitioned between water and ethyl acetate. EA layer was separated and aqueous layer was extracted with EA. The combined EA layers were dried over anhydrous MgSO4. After the volatile material was removed, the desired product was obtained (68 mg, 70% yield). The product thus obtained was forward to the next step without any further purification.

reactant | (S)-2-tert-Butoxycarbonylamino-3-[4-(4-chloro-phenoxy)-phenyl]-propionic acid methyl ester | 0.26 mmol, 107 mg, 1 eq. | COC([C@H](CC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)NC(=O)OC(C)(C)C)=O | C21H24ClNO5
reactant | diisobutylaluminium hydride | 1 M, 0.6 ml, 2.3 eq. | [H-].C(C(C)C)[Al+]CC(C)C
reactant | AcOH | 0.2 ml | CC(=O)O | C2H4O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | {(S)-2-[4-(4-chloro-phenoxy)-phenyl]-1-formyl-ethyl}-carbamic acid tert-butyl ester | 70% yield | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)C=O)=O | C20H22ClNO4
